US07772234B2
Step E: Preparation of 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid.
To a solution of 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid methyl ester (137 mg, 0.323 mmol) in THF-water (3 mL/l mL) was added 1 M aqueous LiOH (0.67 mL, 0.67 mmol) at room temperature. The resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was acidified to pH 6 with 1 N aqueous HCl, diluted with water, and extracted with EtOAc. The organic layer was washed with water, dried over MgSO4, filtered, and concentrated in vacuo to give the desired product (96 mg, 73%).

reactant | 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid methyl ester | 0.323 mmol, 137 mg | COC(=O)C=1C=C2C(=NC=NC2=C(C1NC1=C(C=C(C=C1)Br)Cl)F)C | C17H12BrClFN3O2
reactant | LiOH | 0.67 mmol, 1 M, 0.67 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF water | C1CCOC1.O
solvent | water | O | H2O
product | 7-(4-bromo-2-chlorophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylic acid | 96 mg, 73% | BrC1=CC(=C(C=C1)NC1=C(C=C2C(=NC=NC2=C1F)C)C(=O)O)Cl | C16H10BrClFN3O2
